US04379921
Synthesis of 1-(4-chlorophenyl)-4,4-dimethyl-1-phenylthiopentan-3-one
To a mixture of 4-chlorobenzalpinacolone (22.3 g), triethylamine (5 drops) and ethanol (250 ml) was added thiophenol (12 g) and the mixture was kept to 70° C. for 4 hours. After ice-cooling, the resulted precipitates were collected by filtration, washed with cold ethanol and dried to give white crystals of the captioned compound (29 g; 84%). m.p. 127°-128° C.

reactant | 4-chlorobenzalpinacolone | 22.3 g | ClC1=CC=C(C=CC(C(C)(C)C)=O)C=C1 | C13H15ClO
reactant | thiophenol | 12 g | C1(=CC=CC=C1)S | C6H6S
catalyst | triethylamine | 5 drops | C(C)N(CC)CC | C6H15N
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 1-(4-chlorophenyl)-4,4-dimethyl-1-phenylthiopentan-3-one | ClC1=CC=C(C=C1)C(CC(C(C)(C)C)=O)SC1=CC=CC=C1 | C19H21ClOS
